US07754719B2
(+)-4-{4-[3-(3-Benzo[1,3]dioxol-5-ylmethyl-piperidin-1-yl)-propionyl]-piperazin-1-yl}-2-fluoro-benzonitrile
A solution of 4-(4-acryloyl-piperazin-1-yl)-2-fluoro-benzonitrile (0.125 g, 0.48 mmol), (+)-3-benzo[1,3]dioxol-5-ylmethyl-piperidine (0.106 g, 0.48 mmol) and triethylamine (0.088 ml, 0.629 ml) in THF (1.6 ml) is stirred at rt for 25 h. The mixture is diluted with CH2Cl2 and washed with sat. aq. Na2CO3 solution The organic layer is separated off, dried over Na2SO4 and evaporated. The residue is purified by MPLC (60 g silica gel, eluent CH2Cl2:MeOH 9:1) to give the title compound, (+)-4-{4-[3-(3-benzo[1,3]dioxol-5-ylmethyl-piperidin-1-yl)-propionyl]-piperazin-1-yl}-2-fluoro-benzonitrile, as a colourless foam:

reactant | 4-(4-acryloyl-piperazin-1-yl)-2-fluoro-benzonitrile | 0.48 mmol, 0.125 g | C(C=C)(=O)N1CCN(CC1)C1=CC(=C(C#N)C=C1)F | C14H14FN3O
reactant | (+)-3-benzo[1,3]dioxol-5-ylmethyl-piperidine | 0.48 mmol, 0.106 g | O1COC2=C1C=CC(=C2)CC2CNCCC2 | C13H17NO2
reactant | triethylamine | 0.088 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 1.6 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (+)-4-{4-[3-(3-benzo[1,3]dioxol-5-ylmethyl-piperidin-1-yl)-propionyl]-piperazin-1-yl}-2-fluoro-benzonitrile | O1COC2=C1C=CC(=C2)CC2CN(CCC2)CCC(=O)N2CCN(CC2)C2=CC(=C(C#N)C=C2)F | C27H31FN4O3
